US07285558B2
(a) 2-[(5-chloro-1H-indol-3-yl)methyl]-5-methyl-3-(1-methyl-1H-imidazol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was made following the procedure described above, starting with 6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first with 5-chloro-1H-indole-3-carbaldehyde, followed by 1-methyl-1H-imidazole-2-carbaldehyde

reactant | 6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione | N(N)C1=CC(N(C(N1)=O)C)=O | C5H8N4O2
reactant | 5-chloro-1H-indole-3-carbaldehyde | ClC=1C=C2C(=CNC2=CC1)C=O | C9H6ClNO
reactant | 1-methyl-1H-imidazole-2-carbaldehyde | CN1C(=NC=C1)C=O | C5H6N2O
product | 2-[(5-chloro-1H-indol-3-yl)methyl]-5-methyl-3-(1-methyl-1H-imidazol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | ClC=1C=C2C(=CNC2=CC1)CN1N=C2NC(N(C(C2=C1C=1N(C=CN1)C)=O)C)=O | C19H16ClN7O2
